US04200654
Upon refluxing 6.36 g. of 1-p-chlorophenoxy-2,3-epoxypropanol with 5 g. of N-benzylpropargylamine in 50 ml. of ethanol and subsequent removal of the solvent as in Example 1, a yellow oil is obtained. Placing this oil on a silica gel column and eluting said column with ethyl acetate produces the pure yellow liquid 1-(N-benzylpropargylamino)-3-p-chlorophenoxy-2-propanol which shows IR and NMR spectra in accordance with its structure and proper analyses for C19H20NO2Cl.

reactant | 1-p-chlorophenoxy-2,3-epoxypropanol | ClC1=CC=C(OC(C2CO2)O)C=C1 | C9H9ClO3
reactant | N-benzylpropargylamine | C(C1=CC=CC=C1)NCC#C | C10H11N
product | 1-(N-benzylpropargylamino)-3-p-chlorophenoxy-2-propanol | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)Cl)O)CC#C | C19H20ClNO2
